* C:\Users\ericj\OneDrive\Documents\GitHub\EE-352-Project\LT SPICE\Final Project.asc
X§Oscillator V- 0 N008 V+ oscillator_block
X§Switching_Modulator N008 Vin 0 N007 V+ V- switching_modulator
V1 V+ 0 12V
V2 V- 0 -12V
V3 P001 0 SINE(0 30m 1k 0 0 0 0)
X§Bandpass N007 0 N006 V+ V- bandpass
X§Buffer_Amplifier N006 N003 V+ V- buffer_amplifier
X§Envelope_Detector N004 N005 envelope_detector
X§Power_Transformer N002 0 Vout V+ V- power_transformer
X§Lowpass N001 0 N002 V+ V- bandpass2
R1 N003 N004 50
X§Buffer_Amplifier1 N005 N001 V+ V- buffer_amplifier
V4 Vin P002 SINE(0 30m 4k 0 0 0 0)
V5 P002 P001 SINE(0 30m 300 0 0 0 0)

* block symbol definitions
.subckt oscillator_block V- Gnd out V+
R1 N003 N001 40k
R2 N001 out 80k
C_1 N004 P001 4.7n
R_1 P001 out 470
R_2 N004 Gnd 470
C_2 N004 Gnd 4.7n
D1 N001 N002 1N914
D2 N005 N001 1N914
V1 N003 Gnd PWL(0 0 1m 1m 2m 0)
R3_2 V+ N002 1k
R4_2 N002 out 1k
R4_1 out N005 1k
R3_1 N005 V- 1k
X§U1 N004 N001 V+ V- out OP27
.ends oscillator_block

.subckt switching_modulator carrier in gnd out V+ V-
Re out gnd 10k
D1 N002 out 1N914
X§U3 0 N001 V+ V- N002 OP27
R5 N001 N002 6k
R7 carrier N001 10k
R8 in N001 200
.ends switching_modulator

.subckt bandpass in gnd out V+ V-
X§U1 N004 out V+ V- out OP27
R1 N004 gnd 10k
C_1 N003 N004 1n
C_2 N001 N003 1n
R2 N003 out 40k
R3 N002 N005 1k
C3 N005 N001 4.7n
R4 N005 N006 1k
C4 N006 gnd 1n
X§U2 N006 N001 V+ V- N001 OP27
R5 in N007 1k
C1 N007 N002 4.7n
R6 N007 N008 1k
C2 N008 gnd 1n
X§U3 N008 N002 V+ V- N002 OP27
.ends bandpass

.subckt buffer_amplifier in out V+ V-
X§U1 in N001 V+ V- out OP27
R2 out N001 2k
R1 N001 0 1k
.ends buffer_amplifier

.subckt envelope_detector in out
D1 P001 out 1N914
C out 0 1n
R1 out 0 100k
R2 in P001 500
.ends envelope_detector

.subckt power_transformer in gnd out V+ Vi
X§U1 in out V+ Vi N001 OP27
Q1 V+ N001 out 0 2N3904
Q2 Vi N001 out 0 2N3906
Rl out gnd 10k
.ends power_transformer

.subckt bandpass2 in gnd out V+ V-
X§U1 N008 N001 V+ V- N001 OP27
R3 N001 N005 {R}
C3 N005 N002 1n
R4 N005 N006 {R}
C4 N006 gnd 4.7n
X§U2 N006 N002 V+ V- N002 OP27
C1 N008 gnd 4.7n
C2 N001 N007 1n
R1 N007 N008 {R}
R2 in N007 {R}
R5 N002 N003 {R}
C5 N003 out 1n
R6 N003 N004 {R}
C6 N004 gnd 4.7n
X§U3 N004 out V+ V- out OP27
.param R=2.2k
.ends bandpass2

.model D D
.lib C:\Users\ericj\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ericj\AppData\Local\LTspice\lib\cmp\standard.bjt
* BNC Cable
* Reciever
* Transmitter
* (Eventually Antenna)
.tran 0 20m 18m 100u
.lib ADI.lib
.backanno
.end
